US08859541B2
E1a) tert-butyl-N-[1-[[5-(3,5-dimethylpyridin-4-yl)-6-[2-tri(propan-2-yl)silylethynyl]pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate
A mixture of tert-butyl-N-[1-[[5-bromo-6-[2-tri(propan-2-yl)silylethynyl]pyridin-2-yl]-amino]-1-oxopropan-2-yl]-N-methylcarbamate C1a (300 mg, 0.56 mmol), 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (169 mg, 0.72 mmol), Na2CO3 (118 mg, 1.11 mmol), 1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) (40.8 mg, 0.06 mmol), dioxane (2 ml) and water (0.4 ml) is stirred under argon atmosphere for 17 h at 90° C. The mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 26 mg (51%). HPLC-MS: M+H=565; tR=2.32 min (*Method—4).

reactant | tert-butyl-N-[1-[[5-bromo-6-[2-tri(propan-2-yl)silylethynyl]pyridin-2-yl]-amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)Br)C#C[Si](C(C)C)(C(C)C)C(C)C)C)=O | C25H40BrN3O3Si
reactant | 3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.72 mmol, 169 mg | CC=1C=NC=C(C1B1OC(C(O1)(C)C)(C)C)C | C13H20BNO2
reactant | Na2CO3 | 1.11 mmol, 118 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dioxane | 2 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 0.06 mmol, 40.8 mg | Cl[Pd]Cl
solvent | water | 0.4 ml | O | H2O
product | tert-butyl-N-[1-[[5-(3,5-dimethylpyridin-4-yl)-6-[2-tri(propan-2-yl)silylethynyl]pyridin-2-yl]amino]-1-oxopropan-2-yl]-N-methylcarbamate | C(C)(C)(C)OC(N(C)C(C(=O)NC1=NC(=C(C=C1)C1=C(C=NC=C1C)C)C#C[Si](C(C)C)(C(C)C)C(C)C)C)=O | C32H48N4O3Si
